US05580872
Step 8: 8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylic acid hydrochloride
A mixture of 1 g (2.75 mmol) of ethyl 7-fluoro-1-methylamino-8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylate, from Step 7, in 12 mL of THF and 16.5 mL of a 0.5N aqueous solution of sodium hydroxide is heated, with stirring, at 75° C. for 8 hours. The THF is removed from the reaction mixture by distillation during the reaction. The concentrated reaction mixture is cooled to ambient temperature and adjusted to pH 2.0 with 10.5 mL of 1N aqueous hydrochloric acid solution. The aqueous solution is concentrated in vacuo to remove ~80% of the water and the concentrate is diluted with 50 mL of 95% ethyl alcohol. The solid is collected by filtration, washed with 2×5 mL of ethyl alcohol and dried in vacuo to afford the desired product.

reactant | ethyl 7-fluoro-1-methylamino-8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylate | 2.75 mmol, 1 g | FC1=CN2C(C(=CC(=C2C=C1N1CCN(CC1)C)NC)C(=O)OCC)=O | C18H23FN4O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 10.5 mL | Cl | ClH
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylic acid hydrochloride | Cl.CN1CCN(CC1)C=1C=CN2C(C(=CC=C2C1)C(=O)O)=O | InChI=1S/C15H17N3O3.ClH/c1-16-6-8-17(9-7-16)11-4-5-18-12(10-11)2-3-13(14(18)19)15(20)21;/h2-5,10H,6-9H2,1H3,(H,20,21);1H
